US04849511
Succinimidyl-N-(S-benzoylmercaptoacetyl)glycinate is prepared according to the method described by R. F. Schneider et al, Journal of Nuclear Medicine 25 (2), 223-229 (1984). Glycyl-D-alanine in an amount of 250 mg is dissolved in 15 ml of water and the mixture is heated to 70° C. on a water bath. Meanwhile, 1 g of succinimidyl-N-(S-benzoylmercaptoacetyl)glycinate is dissolved in 40 ml of ethanol and the mixture is heated to 70° C. on a water bath. The solution of glycyl-D-alanine in water is added at once to the said ethanolic solution while stirring magnetically. The mixture is then refluxed for 1 hour. After cooling, the solution is evaporated to dryness under reduced pressure. The solid residue is shaken five times with 15 ml of acetone which is each time filtered off. Benzoylmercaptoacetylglycyl-D-alanine is precipitated from the collected filtrates by the addition of diethylether. The precipitate is filtered off and dried in vacuo over phosphorous pentoxide. In this manner 174 mg (yield 31.6%) of benzoylmercaptoacetylglycyl-D-alanine are obtained as a white crystalline powder. Benzoylmercaptoacetylglycyl-D-alanine in an amount of 150 mg is dissolved in 40 ml of tetrahydrofuran and the solution is cooled in an ice bath at 0° C. A solution of 50 mg of glycine-ethyl ester and 100 mg of dicyclohexylcarbodi-imide in 15 ml of tetrahydrofuran is slowly added while stirring magnetically. The mixture is stirred at 0° C. for 2 hours and then at room temperature for 15 hours. The resulting precipitate is then filtered off and the filtrate is evaporated to dryness under reduced pressure. The solid residue is shaken with a mixture of 50 ml of water and 50 ml of methylene chloride. The organic layer is separated, dried over anhydrous sodium sulphate and evaporated to dryness in vacuo. The solid residue is shaken five times with 15 ml of acetone which is each time filtered off. The collected filtrates are concentrated in vacuo to 15 ml and diethylether is added dropwise thereto while stirring until complete formation of precipitate. The precipitate is filtered off, washed with diethyl ether and dried over phosphorous pentoxide in vacuo. In this manner, 155 mg (55.1% yield) of benzoylmercaptoacetylglycyl-D-alanylglycine ethyl ester are obtained. The identity of this compound is confirmed by mass spectrometry, proton-NMR analysis and elementary analysis: mp 137° C.; [α]D20 +20.5 (C=1 in methanol); mass spectrum m/e- 410; nmr (DMSO-d6): δ1.22 (3H, d, CH3), 3.77 (2H, d, δ--CH2 --N), 3.81 (2H, d, α--CH2 --N), 3.87 (2H, s, CH2 --S), 4.33 (1H, q, β--CH), 8.08 (1H, d, β --NH), 8.28 (1H, t, α--NH), 8.42 (1H, t, δ--NH), 7.5-8.04 (5H, complex, aromatic), 4.08 (2H, q, OCH2), 1.18 (3H, t, ester--CH3).

reactant | Benzoylmercaptoacetylglycyl-D-alanine | C(C1=CC=CC=C1)(=O)SCC(=O)NCC(=O)N[C@H](C)C(=O)O | C14H16N2O5S
reactant | glycine-ethyl ester | 50 mg | C(C)OC(CN)=O | C4H9NO2
reactant | dicyclohexylcarbodi-imide | 100 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | benzoylmercaptoacetylglycyl-D-alanylglycine ethyl ester | 155 mg, 55.1% yield | C(C)OC(CNC([C@H](NC(CNC(CSC(C1=CC=CC=C1)=O)=O)=O)C)=O)=O | C18H23N3O6S
